US08580762B2
Step 13: Synthesis of 7-((3aS,4R,6R,6aR)-6-(((3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of 7-((3aS,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (80 mg, 0.18 mmol) and 3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutanone (45 mg, 0.14 mmol) in 1,2-dichloroethane (2.4 mL) was treated dropwise with acetic acid (10 uL, 0.18 mmol). The solution was treated with sodium triacetoxyborohydride (53 mg, 0.25 mmol) in one portion and allowed to stir at room temperature till complete by HPLC. After 4 h, the reaction mixture was diluted with 10 mL CH2Cl2 and washed with 10 mL sat NaHCO3. The aqueous phase was washed with 10 mL CH2Cl2 and the combined organic phase was dried over Na2SO4. The solution was filtered and concentrated to yield a light tan glass/stiff foam. The crude material was purified by flash chromatography (25 g silica gel; 5% 7N NH3 in CH3OH/CHCl3) to yield the title compound (76 mg, 71%) as a colorless glass/stiff foam: MS (ESI+) for C38H43ClF3N7O4 m/z 754.3 (M+H)+; MS (ESI−) for C38H43ClF3N7O4 m/z 752.3 (M−H)−; HPLC purity 90.5% (ret. time, 3.24 min).

reactant | 7-((3aS,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.18 mmol, 80 mg | NC[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C24H31N5O4
reactant | 3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutanone | 0.14 mmol, 45 mg | ClC=1C(=CC2=C(NC(=N2)CCC2CC(C2)=O)C1)C(F)(F)F | C14H12ClF3N2O
reactant | acetic acid | 0.18 mmol, 10 uL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.25 mmol, 53 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 2.4 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 76 mg, 71% | ClC=1C(=CC2=C(NC(=N2)CCC2CC(C2)NC[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C1)C(F)(F)F | C38H43ClF3N7O4
